US07906517B2
Ethyl 4-(2-{(3-cyano-5-trifluoromethyl-benzyl)-[2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate (240 mg) is dissolved in tetrahydrofuran (2.6 ml), and thereto is added 1N-aqueous sodium hydroxide solution (2.6 ml) and the mixture is stirred at 40° C. for additional 30 minutes and warmed to 50° C. and stirred for 3 hours. Thereto is added a 2N-aqueous sodium hydroxide solution (650 μl) and the mixture is stirred at 60° C. for 20 minutes. The reaction solution is cooled to room temperature and thereto are added ethyl acetate and a 1N-hydrochloric acid, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over sodium sulfate and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=19:1) to give 4-(2-{(3-cyano-5-trifluoromethyl-benzyl)-[2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyric acid (189 mg). MS (m/z): 650 [M+H]+

reactant | Ethyl 4-(2-{(3-cyano-5-trifluoromethyl-benzyl)-[2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate | 240 mg | C(#N)C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)N(CCC)CC2CC2)C=C(C1)C(F)(F)F | C34H37F6N5O3
reactant | sodium hydroxide | 2.6 ml | [OH-].[Na+]
reactant | sodium hydroxide | 650 μl | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2.6 ml | O1CCCC1 | C4H8O
product | 4-(2-{(3-cyano-5-trifluoromethyl-benzyl)-[2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyric acid | 189 mg | C(#N)C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)O)CC2=C(C=CC(=C2)C(F)(F)F)N(CCC)CC2CC2)C=C(C1)C(F)(F)F | C32H33F6N5O3
